US04782051
Potassium azide (11.6 mg, 143. micromol) was added to a stirred ambient temperature solution of benzyl 2-(p-toluenesulfonyloxy)-carbapen-2-em-3-carboxylate (20.0 mg, 48.4 micro mol) prepared according to the analogous procedure described in U.S. Pat. No. 4,424,230, hereby incorporated by reference for this particular purpose, and 1,4,7, 10,13,16-hexaoxacyclooctadecane (12.8 mg, 48.4 micro mol) in anhydrous acetonitrile (1.0 ml) and dichloromethane (0.2 ml). After 1 hour the mixture was applied to two 20 cm×20 cm 250 micron silica gel preparative thin layer chromatography plates and developed with 3:2 (v/v) toluene-ethyl acetate. The band centered at Rf 0.6 was eluted with ethyl acetate and the elulate was evaporated under vacuum to provide 9.2 mg (67%) benzyl-2-azido-carbapen-2-em-3-carboxylate as a pale yellow glass. The glass was crystallized from 5:1 (v/v) diethyl etherdichloromethane to provide pale yellow rosettes of needles, m.p. 84°-85° C. (dec); I.R. (neat film): 2110, 1785, 1710, 1605, 1285, 1210, 1190 cm-1 ; NMR (CDCl3): δ(del) 2.99 dd (J1 =3 Hz, J2 =16 Hz, 1H), 3.07 d (J=9 Hz, 2H), 3.52 dd (J1 =5 Hz, J2 =16 Hz, 1H), 4.25 m (1H), 5.30 d (J=8 Hz, 1H), 5.33 d (J=8 Hz, 1H), 7.37 m (5H); UV (CH2Cl2) λmax (ε): 310 (10,000)nm; MS (m/e): 256 (M+ -N2), 243, 228, 214, 178, 162, 160, 127, 120, 107.

reactant | Potassium azide | 11.6 mg | [N-]=[N+]=[N-].[K+]
reactant | benzyl 2-(p-toluenesulfonyloxy)-carbapen-2-em-3-carboxylate | 48.4 micro mol, 20.0 mg | C1(=CC=C(C=C1)S(=O)(=O)OC=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O)C | C21H19NO6S
reactant | 1,4,7, 10,13,16-hexaoxacyclooctadecane | 48.4 micro mol, 12.8 mg | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
solvent | dichloromethane | 0.2 ml | ClCCl | CH2Cl2
product | benzyl-2-azido-carbapen-2-em-3-carboxylate | 9.2 mg, 67% | C(C1=CC=CC=C1)OC(=O)C1=C(C[C@H]2N1C(C2)=O)N=[N+]=[N-] | C14H12N4O3
